US04436748
To a mixture of 6,7-dichloro-5-hydroxy-α,α-dimethylbenzo[b]thiophene-2-methanol in 250 ml of 2-butanone is added a solution of 7.7 g of t-butyl bromoacetate in 50 ml 2-butanone and the resultant mixture is placed in a preheated oil-bath at 95°. To the mixture is added 6.7 g of potassium carbonate and 3 ml of dimethylformamide and the reaction mixture is refluxed at 95° for 21/2 hrs. The cooled mixture is filtered and 100 ml of water is added. The layers are separated and the aqueous phase is extracted two times with ethyl ether. The organic extracts are washed, dried over anhydrous magnesium sulfate, filtered and concentrated to give a solid. Recrystallization from ethyl ether and pentane gives 11.5 g of t-butyl[ [6,7-dichloro-2-(1-hydroxy-1-methylethyl)benzo[b]thien-5-yl]oxy]acetate, mp 137°-138°.

reactant | 6,7-dichloro-5-hydroxy-α,α-dimethylbenzo[b]thiophene-2-methanol | ClC=1C(=CC2=C(SC(=C2)C(O)(C)C)C1Cl)O | C11H10Cl2O2S
reactant | t-butyl bromoacetate | 7.7 g | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 6.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
solvent | 2-butanone | 250 ml | CC(CC)=O | C4H8O
solvent | 2-butanone | 50 ml | CC(CC)=O | C4H8O
product | t-butyl[ [6,7-dichloro-2-(1-hydroxy-1-methylethyl)benzo[b]thien-5-yl]oxy]acetate | 11.5 g | C(C)(C)(C)OC(COC1=CC2=C(SC(=C2)C(C)(C)O)C(=C1Cl)Cl)=O | C17H20Cl2O4S
